US08012956B2
Iodomethane (125 uL, 2.0 mmol) was added to a mixture of the methyl 4-amino-2-methyl-3-nitrobenzoate (400 mg, 1.9 mmol) and sodium hydride (60% oil dispersion, 84 mg, 2.1 mmol) in tetrahydrofuran (10 mL) at 0° C. The reaction mixture was slowly warmed to room temperature and stirred for 18 hours. The reaction mixture was quenched with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The combined extract was washed with water (2×30 mL), brine (30 mL), dried over sodium sulfate, filtered and concentrated, then purified by flash chromatography (25% ethyl acetate in hexanes) to give methyl 2-methyl-4-(methylamino)-3-nitrobenzoate (308 mg, 72% yield). 1H NMR (400 MHz, CDCl3): 7.94 (d, 1H), 6.63 (d, 1H), 5.68 (br, 1H), 3.86 (d, 2H), 2.58 (s, 3H); MS (EI) for C10H12N2O4: 225 (MH+).

reactant | Iodomethane | 2.0 mmol, 125 uL | IC | CH3I
reactant | methyl 4-amino-2-methyl-3-nitrobenzoate | 1.9 mmol, 400 mg | NC1=C(C(=C(C(=O)OC)C=C1)C)[N+](=O)[O-] | C9H10N2O4
reactant | sodium hydride | 2.1 mmol, 84 mg | [H-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 2-methyl-4-(methylamino)-3-nitrobenzoate | 308 mg, 72% yield | CC1=C(C(=O)OC)C=CC(=C1[N+](=O)[O-])NC | C10H12N2O4
